US08809539B2
1-Hydroxybenzotriazole (0.183 g, 0.0012 mol) is added to a stirred solution of 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-piperidine-4,4-dicarboxylic acid benzyl ester (0.6 g, 0.0010 mol) in tetrahydrofuran (20 mL). Reaction mixture is stirred for 30 minutes at room temperature. Morpholine (0.13 mL, 0.0015 mol) and 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (0.288 g, 0.0015 mol) are added to the reaction mixture and stirred for over night at room temperature. Demineralized water (10 mL) is added to the reaction mixture, tetrahydrofuran layer is separated and the aqueous layer is extracted with ethyl acetate (2×15 mL). Combined organic layer is dried over sodium sulphate and concentrated under reduced pressure to yield a crude viscous liquid, which is purified by column chromatography (silica gel 230-400 mesh, ethyl acetate) to get 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-4-(morpholine-4-carbonyl)-piperidine-4-carboxylic acid benzyl ester.

reactant | 1-Hydroxybenzotriazole | 0.0012 mol, 0.183 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-piperidine-4,4-dicarboxylic acid benzyl ester | 0.0010 mol, 0.6 g | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)O | C35H30FN3O5
reactant | Morpholine | 0.0015 mol, 0.13 mL | N1CCOCC1 | C4H9NO
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.0015 mol, 0.288 g | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 1-{4-[5-(2-fluoro-biphenyl-4-yl)-[1,2,4]oxadiazol-3-yl]-benzyl}-4-(morpholine-4-carbonyl)-piperidine-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)C(=O)N1CCOCC1 | C39H37FN4O5
